US07943607B2
7-Fluoro-2,2,3-trimethyl-2,3-dihydro-4H-1,3-benzoxazin-4-one
Sodium hydride (60% dispersion in oil) (112 mg, 2.82 mmol) was added to a solution of 7-fluoro-2,2-dimethyl-2,3-dihydro-4H-1,3-benzoxazin-4-one (0.5 g, 2.56 mmol) in THF (10 mL) at 0° C., under argon then the mixture allowed to warm to RT and methyl iodide (0.18 mL, 2.82 mmol) added. The reaction was stirred at RT for 24 hours, poured into ice/water (50 mL) and extracted into ethyl acetate (50 mL). The organic layer was washed with brine (50 mL), dried (MgSO4), and the solvent removed in vacuo to give a yellow oil which was chromatographed on silica, eluting with 30-60% ethyl acetate in isohexane, to give the desired compound as a colourless oil (0.36 g). 1H NMR δ (CDCl3): 1.65 (s, 6H), 3.08 (s, 3H), 6.61 (dd, 1H), 6.75-6.80 (m, 1H), 7.93-7.96 (m, 1H); m/z 210 (M+H)+

reactant | Sodium hydride | 2.82 mmol, 112 mg | [H-].[Na+]
reactant | 7-fluoro-2,2-dimethyl-2,3-dihydro-4H-1,3-benzoxazin-4-one | 2.56 mmol, 0.5 g | FC1=CC2=C(C(NC(O2)(C)C)=O)C=C1 | C10H10FNO2
reactant | methyl iodide | 2.82 mmol, 0.18 mL | CI | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 7-Fluoro-2,2,3-trimethyl-2,3-dihydro-4H-1,3-benzoxazin-4-one | 0.36 g | FC1=CC2=C(C(N(C(O2)(C)C)C)=O)C=C1 | C11H12FNO2
